US07947738B2
(35-b) 3-Ethylhepta-2,6-dienoic acid (E/Z mixture)
A 5 N aqueous sodium hydroxide solution (14.5 mL) was added to an ethyl alcohol (40 mL) solution of methyl 3-ethylhepta-2,6-dienoate (3.04 g, 18.1 mmol), and the mixture was stirred at room temperature for 17 hours. The mixture was neutralized with a 5 N aqueous hydrochloric acid solution (15 mL), followed by extraction with dichloromethane. The organic layer was dried over magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the compound of interest as a pale yellow oil substance (2.01 g, 71%).

reactant | sodium hydroxide | 5 N, 14.5 mL | [OH-].[Na+]
reactant | methyl 3-ethylhepta-2,6-dienoate | 18.1 mmol, 3.04 g | C(C)C(=CC(=O)OC)CCC=C | C10H16O2
reactant | hydrochloric acid | 5 N, 15 mL | Cl | ClH
solvent | ethyl alcohol | 40 mL | C(C)O | C2H6O
product | 3-Ethylhepta-2,6-dienoic acid | C(C)C(=CC(=O)O)CCC=C | C9H14O2
